US06919356B2
Part G: Preparation of 3-bromo-5-nitrobenzoic acid
A solution of 3-nitrobenzoic acid (16.7 g, 100 mmol) in trifluoroacetic acid (50 mL) and sulfuric acid (20 mL) at 50° C. N-Bromosuccinimide (26.7 g, 150 mmol) was added in three portions over 3 hours. The mixture was stirred for 16 hours and then cooled to room temperature. The mixture was poured into ice water (200 mL) and extracted three times with ethyl acetate. The combined organic layers were combined, dried over sodium sulfate and concentrated under vacuum. The residue was recrystallized from dichloromethane to provide a white solid (17.7 g, 72%). 1H NMR (300 MHz, DMSO-d6) δ13.8 (bs, 1H), 8.60 (s, 1H), 8.55 (s, 1H), 8.37 (s, 1H).

reactant | 3-nitrobenzoic acid | 100 mmol, 16.7 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | N-Bromosuccinimide | 150 mmol, 26.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 3-bromo-5-nitrobenzoic acid | 17.7 g, 72% | BrC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4BrNO4
